US04013769
Addition of phosphonyl chloride to a mixture of thiosemicarbazide and methoxyacetic acid at 60°-95° and working up of the product yields 5-amino-2-methoxymethyl-(1,3,4)-thiadiazole, m.p. 177°-179° (from water). When this compound is diazotised and treated with cuprous bromide 5-bromo-2-methoxymethyl-(1,3,4-thiadiazole results and reaction of this bromo compound with zinc dust in acetic acid at room temperature yields 2-methoxymethyl-(1,3,4)-thiadiazole, m.p. 30.5°-32°.

reactant | thiosemicarbazide | NNC(=S)N | CH5N3S
reactant | methoxyacetic acid | COCC(=O)O | C3H6O3
solvent | water | O | H2O
product | 5-amino-2-methoxymethyl-(1,3,4)-thiadiazole | NC1=NN=C(S1)COC | C4H7N3OS
